US08222248B2
(3-{3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid diethyl ester
The title compound was prepared from 3,4-diamino-N-quinolin-2-yl-benzamide and [(E)-3-(4-formyl-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester analogous to Example 6-32 (steps 2 and 3). 1H NMR (Methanol-d4, 400 MHz): δ 8.46 (d, 1H), 8.39 (d, 1H), 8.30 (s, 1H), 8.05 (d, 1H), 7.93 (d, 2H), 7.83 (s, 1H), 7.76 (m, 1H), 7.55 (m, 1H), 7.09 (s, 2H), 4.14 (m, 4H), 2.78 (t, 2H), 2.18 (s, 6H), 1.96 (m, 2H), 1.85 (m, 2H), 1.34 (t, 6H). MS (m/z) 571.4 (M+1); Retention time: 1.41 min (Method 10).

reactant | 3,4-diamino-N-quinolin-2-yl-benzamide | NC=1C=C(C(=O)NC2=NC3=CC=CC=C3C=C2)C=CC1N | C16H14N4O
reactant | [(E)-3-(4-formyl-3,5-dimethylphenyl)-allyl]-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)C\C=C\C1=CC(=C(C(=C1)C)C=O)C | C16H23O4P
product | (3-{3,5-Dimethyl-4-[6-(quinolin-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-phenyl}-propyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CCCC1=CC(=C(C(=C1)C)C1=NC2=C(N1)C=C(C=C2)C(NC2=NC1=CC=CC=C1C=C2)=O)C | C32H35N4O4P
